US04447441
2-Hydroxyethylhydrazine (7.6 g.) was added slowly to a solution of potassium carbonate (13.8 g.) in water (40 ml.). The mixture was cooled to 0°, then 2-chloroacrylonitrile (8.75 g.) was added slowly with vigorous stirring. Stirring was continued for a further 17 hours and the mixture was then continuously extracted with EtOAc for 20 hours. On evaporation of the solvent, 3-amino-1-(2-hydroxyethyl)pyrazole was obtained, (7.7 g.; 60%), b.p. 170°/0.5 mm.

reactant | 2-Hydroxyethylhydrazine | 7.6 g | OCCNN | C2H8N2O
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroacrylonitrile | 8.75 g | ClC(C#N)=C | C3H2ClN
solvent | water | 40 ml | O | H2O
product | 3-amino-1-(2-hydroxyethyl)pyrazole | NC1=NN(C=C1)CCO | C5H9N3O
